US05091569
A mixture of 2.23 g (10 mmol) of 8-bromooctanoic acid (IV3) and 1 ml of thionyl chloride was heated for 1 hour at 50° C. and the remainder thionyl chloride was evaporated under reduced pressure. The resulting product was treated with 835 mg (10 mmol) of N-methyl hydroxylamine hydrochloride and 1.66 g (12 mmol) of potassium carbonate according to the procedure shown in Example 10 to give methyl-8-bromooctanohydroxamic acid (V4), which was recrystallized from a mixture of ether-n-hexane (1:1) to give 2.12 g of the compound (V4) as colorless prismatic crystals. mp. 39° C. to 40° C. To a solution of 2.12 g (8.4 mmol) of the compound (V4) and 2.15 g (9 mmol) of 2,6-di-tert-butyl-4-mercaptophenol in ethanol was added of 1.05 g (26.3 mmol) of sodium hydroxide and the resulting mixture was stirred for 4 hours at room temperature. The reaction mixture was poured into 50 ml of a 5% aqueous solution of hydrochloric acid and the mixture was extracted with 100 ml of ether. The ether layer was washed with 100 ml of water twice, dried over anhydrous sodium sulfte, and concentrated under reduced pressure to give an oily residue which was chromatographed on silica gel. The aimed compound (I11) which was obtained from the fraction eluted with a mixture of ether-ethyl acetate (2:1) was recrystallized from n-hexane containing small amount of ether to give 2.99 g of colorless needle-like crystals in 87% yield.

reactant | 8-bromooctanoic acid | 10 mmol, 2.23 g | BrCCCCCCCC(=O)O | C8H15BrO2
reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-methyl hydroxylamine hydrochloride | 10 mmol, 835 mg | Cl.CNO
reactant | potassium carbonate | 12 mmol, 1.66 g | C([O-])([O-])=O.[K+].[K+]
product | methyl-8-bromooctanohydroxamic acid | CC(C(=O)NO)CCCCCCBr | C9H18BrNO2
